US08629166B2
b) 5-Iodo-N-(pyridin-3-yl)-6-(2,2,2-trifluoroethoxy)nicotinamide
5-Iodo-6-(2,2,2-trifluoroethoxy)nicotinic acid (1 g, 2.88 mmol) was dissolved in DMF (10.0 mL); 3-amino-pyridine (285 mg, 3.03 mmol), TBTU (981 mg, 3.05 mmol) and N,N-diisopropylethylamine (1.8 g, 14.4 mmol) were added and the reaction mixture was stirred for 20 hours. The mixture was poured into 5 mL 1 M NaOH solution and extracted with i-propyl acetate (2×50 mL). The organic layers were combined, dried with Na2SO4 and concentrated in vacuo to give a light yellow solid. Crystallization from dichloromethane afforded the title compound (0.78 g, 64%) as white solid; MS (ESI) 423.9 (M+H)+.

reactant | 5-Iodo-6-(2,2,2-trifluoroethoxy)nicotinic acid | 2.88 mmol, 1 g | IC=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C8H5F3INO3
reactant | 3-amino-pyridine | 3.03 mmol, 285 mg | NC=1C=NC=CC1 | C5H6N2
reactant | TBTU | 3.05 mmol, 981 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | 14.4 mmol, 1.8 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaOH | 1 M, 5 mL | [OH-].[Na+]
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | 5-Iodo-N-(pyridin-3-yl)-6-(2,2,2-trifluoroethoxy)nicotinamide | 0.78 g, 64% | IC=1C(=NC=C(C(=O)NC=2C=NC=CC2)C1)OCC(F)(F)F | C13H9F3IN3O2
